data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1CC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1CC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1CC)C(C)C", "products": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "CCc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CC(C)c1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "CC(C)c1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "CC(C)c1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "CC(C)c1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "CC(C)c1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "CC(C)c1ccc2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Cl)C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Cl)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(Cl)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(OC)C2Cl)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(F)c(Cl)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)c(Cl)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)c(Cl)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(F)c(Cl)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(F)c(Cl)c1)C2(C)C", "products": "C[C+]1C2(c3ccc(F)c(Cl)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(F)c(Cl)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(F)c(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(F)c(Cl)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(F)c(Cl)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(F)c(Cl)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(F)c(Cl)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(F)c(Cl)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)c(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(OC)c1)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1OC"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1OC", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1OC"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1OC.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1OC"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1OC", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1OC.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1C", "products": "COc1ccc(C)c(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
